US07834048B2
4-((R)-2-Methoxymethyl-pyrrolidin-1-yl)-N-[4-((1R,5S,6R)-3-propyl-3-azabicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide
A solution of 0.07 g rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 0.11 mmol) and 0.043 g tri(dibenzylideneacetone)dipalladioum(0) (0.05 mmol) in 5 ml tetrahydrofuran were added dropwise to a solution of 4-bromo-N-[4-((1R,5S,6R)-3-propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide (0.26 g, 0.59 mmol), (R)-2-(methoxymethyl)pyrrolidine (104 mg, 0.9 mmol), and 0.104 g sodium tert.butylate (1.08 mmol) in 20 ml tetrahydrofuran. The reaction mixture was refluxed for 5½ hours, and, after additional addition of 0.04 ml (R)-2-(methoxymethyl)pyrrolidine, for another 2 hours. After evaporation, the residue was treated with water, extracted twice with diethyl ether and dichloromethane each, and the combined organic layers dried over magnesium sulfate, filtered, and the solvent evaporated. Purification of the thus obtained crude product via silica gel chromatography using a gradient of dichloromethane/methanol 0-12% gave 50 mg (yield 18%) of the title compound.

reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.11 mmol, 0.07 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 4-bromo-N-[4-((1R,5S,6R)-3-propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide | 0.59 mmol, 0.26 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)CCC | C21H25BrN2O2S
reactant | (R)-2-(methoxymethyl)pyrrolidine | 0.9 mmol, 104 mg | COC[C@@H]1NCCC1 | C6H13NO
reactant | (R)-2-(methoxymethyl)pyrrolidine | 0.04 ml | COC[C@@H]1NCCC1 | C6H13NO
reactant | dichloromethane methanol | ClCCl.CO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-((R)-2-Methoxymethyl-pyrrolidin-1-yl)-N-[4-((1R,5S,6R)-3-propyl-3-azabicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide | 50 mg, yield 18% | COC[C@@H]1N(CCC1)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)CCC | C27H37N3O3S
